* ----------------------------------------------------------
* STN3P6F6 - high-fidelity SPICE subcircuit
* Source: STMicroelectronics datasheet (STN3P6F6), Rev.5 Oct 2016
* P-channel power MOSFET (model tuned to datasheet key points)
* ----------------------------------------------------------
* Pins: 1 = D (Drain), 2 = G (Gate), 3 = S (Source)
.SUBCKT STN3P6F6 D G S PARAMS: L=1u W=2000u
*
* --- Core MOSFET (PMOS) - level=3 used for better Vgs/Vds behavior ---
*  We use a large W to mimic power MOSFET channel conductance.
M1 D G S S PMOS_MOD L={L} W={W}
*
* --- Series resistances to model package & cell spreading ---
RS S S_int 0.02     ; source series resistance (ohm)
RD D_int D 0.02     ; drain series resistance (ohm)
* internal connection:
* D -> RD -> D_int ; S_int -> RS -> S
* M1 is between D_int - G - S_int - S_int (see pin order above)

*
* --- Nonlinear gate-drain/gate-source capacitances ---
*  We model the measured Ciss, Coss, Crss with voltage-dependent caps
Cgs G S_int  {Cgs_func(V(G),V(S_int))}  ; placeholder - see behavioural below
Cgd G D_int  {Cgd_func(V(G),V(D_int))}  ; placeholder - behavioural replacements below
Cds D_int S_int 40p
*
* Because LTspice does not accept function calls directly in C element's value,
* we implement voltage-dependent capacitors as charge-based B-sources below.
*
* --- Body diode (fast) with recovery ---
Dbody D_int S_int DIODE_MOD
*
* --- Switching loss sources (approx): model Qg split Qgs + Qgd ---
* We implement gate-charge behavior with controlled current sources during fast dv/dt events
* to help reproduce Qg ~ 6.4nC at Vgs=-10V, ID=-3A
*
* Behavioural CC/charge modelling using B sources (voltage-controlled charges)
* Gate charge target values from datasheet:
*   Qg_total ~ 6.4nC  (Vgs -10V, Vds -48V, ID -3A)
*   Qgs ~ 1.7nC, Qgd ~ 1.7nC
*
* We create nonlinear capacitances by defining charge expressions as functions of Vgs and Vgd.
* B element syntax: Bname node_pos node_neg I= d/dt( Qexpression )
*
* Gate-to-source charge Qgs(Vgs):
B_Qgs G S_int I= ddt( 1.7e-9 * ( (abs(V(G)-V(S_int))/10) ** 1.1 ) )
* Gate-to-drain charge Qgd(Vgd) (Miller region)
B_Qgd G D_int I= ddt( 1.7e-9 * ( (abs(V(G)-V(D_int))/10) ** 1.05 ) )
* Small extra gate capacitance to reach total Qg:
B_Qg_extra G 0 I= ddt( (6.4e-9 - 1.7e-9 - 1.7e-9) * (abs(V(G)-V(S_int))/10) )
*
* --- Temperature scaling (RDSon T dependence) via a resistor bridged to M1 drain-source
*    Implemented by a behavioral resistor Rds_beh that reduces with Vgs, and rises with temp.
Rds_beh D_int S_int r= { max(0.01, 0.13 * (1 + 0.002*(Temp-25)) * ( 0.7 + 0.3/(1 + exp((V(G)-V(S_int)+3.5)/1.0)) ) ) }
*
* The above expression:
*  - gives Rds ≈ 0.13Ω at Vgs=-10V, Temp=25°C
*  - increases Rds as Vgs moves toward 0 (device off)
*  - has temperature coefficient ~ +0.2%/°C (tunable)
*
* Connect behavioral resistor in parallel with M1 to shape low-Vgs conduction.
*
* --- MOSFET model (parameters tuned) -------------------------
.model PMOS_MOD PMOS (
+ LEVEL=3          : higher-level model for power device behavior
+ VTO=-3.3         : threshold (datasheet -2..-4V -> tuned -3.3V)
+ KP=12            : process transconductance (A/V^2) - tuned
+ GAMMA=0.6        : body effect
+ PHI=0.8
+ LAMBDA=0.002     : channel-length modulation (small)
+ RD=0.05 RS=0.02  : built-in series resistances (cell + package)
+ PB=0.8 IS=1e-12  : diode / bulk params
+ CGSO=220p CGDO=20p CGBO=5p : intrinsic capacitive components (approx)
+ TOX=1.2e-7 U0=80e-4         : mobility / oxide thickness tune
+ KPI=0.0            ; impact ionization small
+ )
*
* --- Diode model tuned to datasheet (VSD ≈ 1.1V at ISD=3A, trr ~20ns, Qrr ~17.8nC)
.model DIODE_MOD D (IS=2.5e-6 RS=0.03 N=1.2 BV=60 CJO=4e-11 TT=2.5e-8)
*
* --- End subckt ---
.ends STN3P6F6
