*****************************************************************
******STMicroelectronics MOSFET, IGBT and Bipolar Library *******
*****************************************************************
*				 			                                    *
* Models provided by STMicroelectronics are not guaranteed to   *
* fully represent all the specifications and operating	        *
* characteristics of the product behavior that they reproduce.  *
* The model describes the characteristics of a typical device.  *
* In all cases, the current product data sheet contains all     *
* information to be used like final design guidelines and the   *
* only actual performance specification.                        *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions.						                        *
* STMicroelectronics therefore does not assume any              *
* responsibility arising from their use.                        *
* STMicroelectronics reserves the right to change models        *
* without prior notice.                                         *
*                                                               *
* Note: The model doesn't take into account the drain, gate,    *
* source inductances.If these contributions have to be          *
* considered it is possible include the inductors externally.   *
* For this package the values can be estimated as follow        *
*                                                               *
* Ldrain= 1nH ,Lsource=2nH and Lgate=2.5nH                      *
*                                                               *
* ver 2.0 Jun 2021                                              *
*                                                               *
*****************************************************************

.SUBCKT STN3P6F6_V2 drain gate source

*****************************************************************
E1	Tj	Val_T	VALUE={TEMP}
R1	Val_T	0	1E-03
*****************************************************************
Rtk	 Tj 0 1E010
Rtk1 Tj 0 1E010
*****************************************************************
VLd d1k drain 0
V_Read d1 d1k 0
VLs ss source 0
VLg gate g2 0
.PARAM  Rg=3
Rg1 g2 g {Rg}
*****************************************************************
.PARAM AreaCap=1 Area=1 Gfs=1 RAV=1m
*****************************************************************
.PARAM KpSat0=105 KpLin0=2.76 KSat=-1 KLin=-1
.PARAM Vth0=3.25 Vth1=1.9m Vth2=0
.PARAM Vth1_=4m Vth2_=4u
.FUNC pwr1(x,y) {abs(x)**y}
.PARAM  Rs=10E-03 Drs=-1.5
.PARAM Rx=2.28 rpa=100u unt=-2.4
.PARAM  Lambda=0.007 Rdrain=71E-03
*****************************************************************
.FUNC Vth(x) {Vth0-Vth1*(x-27)-Vth2*pwr1(x-27,2)}
.FUNC Vth_(x) {Vth0-Vth1_*(x-27)-Vth2_*pwr1(x-27,2)}
.FUNC KpSat(v,x) {KpSat0*pwr1(v,-1.667)*pwr1((x+273)/300,KSat)}
.FUNC KpLin(v,x) {KpLin0*pwr1((x+273)/300,KLin)}

***********************************GRmos*************************
V2xx  d1 22xxx 0
E2xxx 22xxx d VALUE={R2(I(V2xx),V(TJ))}
.FUNC R2(I1,T2) {I1*(rdrain+rpa*pwr1(I1,Rx))/(pwr1((T2+273)/300,unt)*Area)}

****************************** GRS *******************************
R_Grs ss s 1E03
V1xx 11xxx ss 0
E1xxx 11xxx s VALUE={R1(Limit(I(V1xx),-1E06,1E06),V(Tj))}
.FUNC R1(I1,T1) {-I1*Rs/(Area*pwr1((T1+273)/300,Drs))}

****************************** Gmos ******************************
Gmos s d value {0.9*GFS*if(V(s,d)>0, if(v(s,g)<Vth(V(TJ)), 0,
+if(V(s,d)<(v(s,g)-Vth(V(TJ)))*kpsat(v(s,g), v(TJ))/KpLin(V(s,g), v(TJ)),
+(1+LAMBDA*v(s,d))*KpLin(V(s,g), v(TJ))/2*v(s,d)*(2*(v(s,g)-Vth(V(TJ)))-KpLin(V(s,g), v(TJ))/kpsat(v(s,g), v(TJ))*v(s,d)),
+(1+LAMBDA*v(s,d))*kpsat(v(s,g), v(TJ))/2*pwr1(v(s,g)-Vth(V(TJ)),2))),
+-if(v(s,g)<Vth(V(TJ)),0,
+if((V(d,s)<(v(s,g)-Vth(V(TJ)))*kpsat(v(s,g), v(TJ))/KpLin(V(s,g), v(TJ))),
+(1+LAMBDA*v(d,s))*KpLin(V(s,g), v(TJ))/2*v(d,s)*(2*(v(s,g)-Vth(V(TJ)))-KpLin(V(s,g), v(TJ))/kpsat(v(s,g), v(TJ))*v(d,s)),
+(1+LAMBDA*v(d,s))*kpsat(v(s,g), v(TJ))/2*pwr1(v(s,g)-Vth(V(TJ)),2))))}

Gmos1 s d value {1m*GFS*if(V(s,d)>0, if(v(s,g)<Vth_(V(TJ)), 0,
+if(V(s,d)<(v(s,g)-Vth_(V(TJ)))*kpsat(v(s,g), v(TJ))/KpLin(V(s,g), v(TJ)),
+(1+LAMBDA*v(s,d))*KpLin(V(s,g), v(TJ))/2*v(s,d)*(2*(v(s,g)-Vth_(V(TJ)))-KpLin(V(s,g), v(TJ))/kpsat(v(s,g), v(TJ))*v(s,d)),
+(1+LAMBDA*v(s,d))*kpsat(v(s,g), v(TJ))/2*pwr1(v(s,g)-Vth_(V(TJ)),2))),
+-if(v(s,g)<Vth_(V(TJ)),0,
+if((V(d,s)<(v(s,g)-Vth_(V(TJ)))*kpsat(v(s,g), v(TJ))/KpLin(V(s,g), v(TJ))),
+(1+LAMBDA*v(d,s))*KpLin(V(s,g), v(TJ))/2*v(d,s)*(2*(v(s,g)-Vth_(V(TJ)))-KpLin(V(s,g), v(TJ))/kpsat(v(s,g), v(TJ))*v(d,s)),
+(1+LAMBDA*v(d,s))*kpsat(v(s,g), v(TJ))/2*pwr1(v(s,g)-Vth_(V(TJ)),2))))}

**************************** Cgs *********************************
CGS source g {AreaCap*340p}
RCGS source g 1E9 

************************* C_Miller ******************************
EDev Dev1 0 VALUE {V(g,d)}
C_Dev1 Dev1 Dev2 1E-12
R_Dev Dev2 Dev3 1E-06
V_Miller Dev3 0 0 
G_Miller g d  VALUE ={AreaCap*(v(alfa)+v(alfa4))*i(V_Miller)*1E12}
*****************************************************************
RCap Alfa 0 1E03
ECap Alfa 0 TABLE {V(s,d)} =
+(0.1,88.3p) 
+(0.2,85.9p) 
+(0.5,80.1p) 
+(1,73.3p) 
+(2,64.5p) 
+(3,58.6p) 
+(5,51.2p) 
+(7,46.4p) 
+(10,41.4p) 
+(15,36.1p) 
+(20,32.7p) 
+(25,30.2p) 
+(30,28.3p) 
+(35,26.8p) 
+(40,25.6p) 
+(45,24.5p) 
+(50,23.7p) 
+(55,22.9p) 
+(60,22.3p) 

Rcap4 alfa4 0 1E03
Ecap4 alfa4 0 TABLE {V(s,g)} =
+(0.1,0p)
+(4,20p)
+(8,120p)

**************************** Cds ********************************
R_DS d s 1000E06

EDevc Dev1c 0 VALUE {V(s,d)}
C_Dev1c Dev1c Dev2c 1E-12
R_Devc Dev2c Dev3c 1E-06
V_Millerc Dev3c 0 0 
G_Cds s d  VALUE ={0.5*AreaCap*V(Alfa2)*i(V_Millerc)*1E12}
*****************************************************************
RCap2 Alfa2 0 1E03
ECap2 Alfa2 0 TABLE {V(s,d)} =
+(0.1,214.7p) 
+(0.2,204.2p) 
+(0.5,183.6p) 
+(1,161.8p) 
+(2,136.3p) 
+(3,120.2p) 
+(5,101.5p) 
+(7,89.9p) 
+(10,78.6p) 
+(15,66.7p) 
+(20,59.6p) 
+(25,54.3p) 
+(30,50.5p) 
+(35,47.4p) 
+(40,44.8p) 
+(45,42.8p) 
+(50,41.1p) 
+(55,39.6p) 
+(60,38.4p) 

**************************** BV ********************************
G_BVdss ss	d1bvdss1  VALUE={I_BVdss(V(ss,d1bvdss1),V(Tj))}
R_GBdSS	d1bvdss1 0 1E12
.FUNC I_BVdss(z,k1) {(exp(min(-175+z/(bvd(k1)),7))-1E-09)}
.FUNC bvd(k) {0.39+0.00028*k}
R_BVdss d1 d1bvdss1 {RAV}
**************************** VF ********************************
.PARAM ResDiodo={1m/Area}
V_Diodo d1zd d1z 0
G_Diode d1zd source VALUE={I_Diode(V(d1zd,source),V(Tj))}
R_X source d1zd 1E12

.FUNC I_Diode(v1,t1) {if(v1<0, 0, limit(did1(limit(t1,-55,175))*pwr1(v1,did2(limit(t1,-55,175))), 0, 1k))}
.FUNC did1(t1) {max(-3E-05*pwr1(t1,2)+ 0.0776*t1 + 11.02,0)}
.FUNC did2(t1) {max(4E-05*pwr1(t1,2) - 0.0303*t1 + 9.1393,0)}

R_G_R_didd d1 d1z {ResDiodo}
************************* Recovery diode **********************
E_E001 ba 0 VALUE {-I(V_Diodo)}
R_R002 aa ba 500
C aa 0 1.5p
.PARAM Irrm=2.15E4
*****************************************************************
R_edep d d_dedep 30
E_Eds d_dedep edep VALUE {-V(aa,0)*Irrm*Area}
C_Cds edep source {1E-12}

.ENDS STN3P6F6_V2
